US07705024B2
Preparation of 1-(2,4-dichloro-phenyl)-5-[5-(3,3-dimethyl-but-1-ynyl)-thiophen-2-yl]-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester
To a suspension of 5-(5-bromo-thiophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester (500 mg, 1.09 mmol), PdCl2(PPh3)2 (23 mg, 0.03 mmol), and CuI (4 mg, 0.01 mmol) in THF (10 mL) was added 4,4-dimethylpent-1-yne (176 mg, 1.30 mmol) and 0.5 M aqueous solution of 2-ethanolamine (3 mL). The resulting mixture was heated at 60° C. for 6 h. After cooled to room temperature, the reaction mixture was poured into water and diethyl ether (H2O/ether=1:1 (v/v), 20 mL). The aqueous layer was extracted with diethyl ether and the combined organic layers were concentrated to give a crude oil, which was purified by flash column chromatography with n-hexane/ethyl acetate (5:1) to afford the desired product (402 mg, 80%) as a light solid.

reactant | 5-(5-bromo-thiophen-2-yl)-1-(2,4-dichloro-phenyl)-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 1.09 mmol, 500 mg | C(C)OC(=O)C1=NN(C(=C1C)C=1SC(=CC1)Br)C1=C(C=C(C=C1)Cl)Cl | C17H13BrCl2N2O2S
reactant | 4,4-dimethylpent-1-yne | 1.30 mmol, 176 mg | CC(CC#C)(C)C | C7H12
reactant | 2-ethanolamine | 3 mL | C(CO)N | C2H7NO
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(PPh3)2 | 0.03 mmol, 23 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.01 mmol, 4 mg | [Cu]I
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 1-(2,4-dichloro-phenyl)-5-[5-(3,3-dimethyl-but-1-ynyl)-thiophen-2-yl]-4-methyl-1H-pyrazole-3-carboxylic acid ethyl ester | 402 mg, 80% | C(C)OC(=O)C1=NN(C(=C1C)C=1SC(=CC1)C#CC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C23H22Cl2N2O2S
